Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old male with history of CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to ___ on ___, LAD ___, hypertension, HFpEF, CKD, and 
HIV presenting with chest pain.  

 The patient notes his pain was acute in onset this morning 
starting at about 7 AM. He took an aspirin and nitroglycerin 
without relief. He noted the pain to be severe, pressure-like, 
and increaseing with inspiration. He states that this feels like 
his usual anginal symptoms. He denies infectious symptoms, 
radiation to back, and vomiting, or diarrhea, or abdominal pain, 
urinary symptoms, lower extremity swelling, recent increasing 
exertional dyspnea.  

 In the ED initial vitals were:  
 Temp. 97.9 HR 106 BP 157/67 SpO2 97% RA  
 In the ED the patient was noted to appear uncomfortable on 
exam. His chest pain was unresponsive sublingual nitro X 3 and 
morphine so nitro gtt was initiated.  

 Labs were notable for WBC 4.4, Hg 8.2, platelets 110, Na 134, K 
4.4, Cl 103, bicarb 18, BUN 40, Cr 1.5, glucose 116, trop X 1 
negative, MB 3, D-dimer 373, BNP 173, UA negative for infection 
with 100 protein. 
 
 CXR showed: Right costophrenic angle most likely reflects  
 pleural thickening. No large pleural effusion is seen. There is 
no pulmonary edema. No pneumothorax is seen. Subtle haziness 
over the lateral right mid chest may be due to overlying soft 
tissue. No definite focal consolidation is seen. The cardiac and 
mediastinal silhouettes are stable.  
 EKG with NSR with no changes compared to prior  
 Patient was given:  
 SL Nitroglycerin SL .4 mg  
 SL Nitroglycerin SL .4 mg  
 SL Nitroglycerin SL .4 mg  
 IV Morphine Sulfate 5 mg  
 IV Ondansetron 4 mg  
 IV DRIP Nitroglycerin 0.5 mcg/kg/min increased to 5 mcg/kg/min  

 IV Heparin 3800 UNIT  
 IV Heparin Started 750  
 PO/NG Metoprolol Tartrate 25 mg  
 PO/NG Diltiazem 30 mg  

 Cardiology Consulted with following recommendations:  
 Patent discussed. h/o CAD s/p Promus DES to mid-LAD, D1 branch, 
and distal-RCA on ___, s/p Premier DES to ___ on ___. 
LAD ___, presenting with c/o chest pain (per ED concerning 
for angina). Currently cardiac biomarkers are negative and EKG 
with no significant ST segment changes. Concern for UA to be 
initiated/continued on IV NTG, beta blockers, IV heparin, ASA, 
plavix and diltiazem.  

 - Start IV heparin  
 - Ct IV NTG  
 - Carvedilol and diltiazem  
 - ASA and Plavix  
 - Statin  
 - Obtain serial EKG and trend troponin  
 Vitals on transfer:  
 HR 108 BP 130/43 RR 20 SpO2 97% RA  

 On the floor the patient notes ongoing ___ pain in his left 
chest. He notes he started having chest pain this morning at 7 
AM after eating breakfast rated at ___. The pain was noted to 
be left sided with radiation to his left arm associated with 
shortness of breath and palpitations. He denies associated 
diaphoresis. He notes that he called an ambulance and was given 
4 doses of baby aspirin enroute to the hospital. He also tried 
taking his nitroglycerin at home with no relief of his chest 
pain. He notes nausea in the Emergency department that has not 
resolved. He denies any vomiting, abdominal pain, diarrhea, 
fever, chills, or dysuria. He does endorse a chronic cough that 
he has had for a long time per his report. 
 
 ROS: On review of systems, denies recent fevers, chills or 
rigors. Denies exertional buttock or calf pain. All of the other 
review of systems were negative. Cardiac review of systems is 
notable for absence of dyspnea on exertion, paroxysmal nocturnal 
dyspnea, orthopnea, ankle edema, syncope or presyncope. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +CKD, + HIV  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to ___ on ___. LAD ___.  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 -HFpEF  
 -Mild AR  
 -CKD (Cr 1.4)  
 -PAD  
 -SIADH  
 -HIV  
 -HCV cirrhosis  
 -portal HTN  
 -GERD  
 -chronic diarrhea  
 -cervical stenosis  
 -COPD  
 -colonic polyps  
 -ACD  
 -G6PD deficiency  
 -peripheral neuropathy  
 -? pulmonary TB  
 -+RPR treated in the ___  
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly.  
 
Physical Exam:
===ADMISSION PHYSICAL EXAM===

 VS: T= 98.4 BP= 137/65 HR= 91 RR= 20 O2 sat= 97% RA weight 60 
kg  
 GENERAL: In NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with JVP at the clavicle with head of bed at 30 
degrees.  
 CARDIAC: Normal S1, S2. I/VI diastolic murmur heard best at the 
left lower sternal border.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 NEURO: CN II-XII intact, ___ strength in upper and lower 
extremities.  
 EXTREMITIES: 2+ peripheral pulses. Warm extremities.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric 

===DISCHARGE PHYSICAL EXAM===
VS: 97.6 143/74 76 20 100RA
 GENERAL: In NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with JVP at the clavicle with head of bed at 30 
degrees.  
 CARDIAC: Normal S1, S2. I/VI diastolic murmur heard best at the 
left lower sternal border.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 NEURO: AAOx3. Moving all extremities with purpose.  
 EXTREMITIES: 2+ peripheral pulses. Warm extremities. Trace 
edema. 
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric 
 
Pertinent Results:
===ADMISSION LABS===

___ 05:50PM BLOOD WBC-4.4 RBC-2.65* Hgb-8.2* Hct-25.9* 
MCV-98 MCH-30.9 MCHC-31.7* RDW-12.2 RDWSD-43.7 Plt ___
___ 05:50PM BLOOD Neuts-42.3 ___ Monos-11.9 Eos-2.1 
Baso-0.5 Im ___ AbsNeut-1.85 AbsLymp-1.88 AbsMono-0.52 
AbsEos-0.09 AbsBaso-0.02
___ 05:50PM BLOOD Plt ___
___:50PM BLOOD ___ PTT-42.8* ___
___ 05:50PM BLOOD Glucose-116* UreaN-40* Creat-1.5* Na-134 
K-4.4 Cl-103 HCO3-18* AnGap-17
___ 05:50PM BLOOD CK-MB-3 proBNP-173
___ 05:50PM BLOOD cTropnT-0.01
___ 05:50PM BLOOD Calcium-8.7 Phos-3.6 Mg-1.4*
___ 06:56PM BLOOD D-Dimer-373
___ 11:47PM BLOOD Lactate-1.5
___ 11:47PM BLOOD ___ Comment-GREEN TOP

===DISCHARGE LABS===
___ 05:10AM BLOOD WBC-4.8 RBC-2.62* Hgb-8.1* Hct-25.1* 
MCV-96 MCH-30.9 MCHC-32.3 RDW-13.0 RDWSD-45.6 Plt Ct-96*
___ 05:10AM BLOOD ___ PTT-37.8* ___
___ 05:10AM BLOOD Thrombn-16.3
___ 05:10AM BLOOD Glucose-110* UreaN-43* Creat-2.0* Na-133 
K-3.9 Cl-107 HCO3-16* AnGap-14
___ 05:10AM BLOOD Calcium-9.5 Phos-3.7 Mg-1.9

===PERTINENT LABS===

___ 05:50PM BLOOD cTropnT-0.01
___ 09:29PM BLOOD cTropnT-0.02*
___ 07:36AM BLOOD CK-MB-3 cTropnT-0.02*
___ 06:50AM BLOOD ___ PTT-150* ___
___ 10:45AM BLOOD PTT-136.3*
___ 05:15AM BLOOD ___ PTT-41.7* ___
___ 07:06PM BLOOD Thrombn-18.6*
___ 12:35PM BLOOD Thrombn-17.5*
___ 10:45AM BLOOD ___ 12:35PM BLOOD Lupus-POS
___ 06:50AM BLOOD ALT-18 AST-33 LD(LDH)-156 AlkPhos-102 
TotBili-0.1
___ 07:36AM BLOOD calTIBC-199* VitB12-374 Hapto-61 
Ferritn-148 TRF-153*
___ 06:56PM BLOOD D-Dimer-373

 Test                          Result              Reference 
Range/Units
CARDIOLIPIN AB (IGG)          <14                 GPL
 
    Value       Interpretation
    -----       --------------
    < or = 14   Negative
    15 - 20     Indeterminate
    21 - 80     Low to Medium Positive
    >80         High Positive
 
Test                          Result              Reference 
Range/Units
CARDIOLIPIN AB (IGM)          12                  MPL
 
    Value       Interpretation
    -----       --------------
    < or = 12   Negative
    13 - 20     Indeterminate
    21 - 80     Low to Medium Positive
    >80         High Positive
 
Test                          Result              Reference 
Range/Units
COMMENT                       See Below           
The antiphospholipid antibody syndrome (APS) is a
clinical-pathologic correlation that includes a clinical
event(e.g. thrombosis, pregnancy loss, thrombocytopenia)
and persistent positive antiphospholipid antibodies
(IgM or IgG ACA ___ MPL/GPL, IgM or IgG anti-b2GPI
antibodies or a lupus anticoagulant). The IgA isotype
has been implicated in smaller studies, but has not yet
been incorporated into the APS criteria. International
consensus guidelines suggest waiting at least 12 weeks
before retesting to confirm antibody persistence.
Reference J Thromb Haemost ___: 4;  295

 Test                          Result              Reference 
Range/Units
B2 GLYCOPROTEIN I (IGG)AB     <9                  <=20 SGU
B2 GLYCOPROTEIN I (IGM)AB     11                  <=20 SMU
B2 GLYCOPROTEIN I (IGA)AB     10                  <=20 ___

___ Antiphospholipid Antibody Syndrome (APS) is a
clinical-pathologic correlation that includes a
clinical event (e.g. thrombosis, pregnancy loss,
thrombocytopenia) and persistent positive
Antiphospholipid Antibodies (IgM or IgG ACA ___
MPL/GPL, IgM or IgG anti-B2GPI antibodies, or a Lupus
Anticoagulant). The IgA isotype has been implicated
in smaller studies, but have not yet been incorporated
into the APS criteria. International consensus
guidelines suggest waiting at least 12 weeks before
retesting to confirm antibody persistence.
Reference J Thromb Haemost ___: 4; 295

___ 05:54PM URINE Hours-RANDOM UreaN-817 Creat-98 Na-39 
K-41 Cl-21 Calcium-0.6
___ 05:54PM URINE Osmolal-475

===PERTINENT IMAGING===

___ CXR (Portable): 

Stable chronic blunting of the right costophrenic angle most 
likely reflects pleural thickening.  No large pleural effusion 
is seen.  There is no pulmonary edema.  No pneumothorax is seen. 
 Subtle haziness over the lateral right mid chest may be due to 
overlying soft tissue.  No definite focal consolidation is seen. 
 The cardiac and mediastinal silhouettes are stable.

___ cardiac perfusion: 
1. Normal myocardial perfusion at the level of exercise 
achieved. 
2. Normal left ventricular cavity size, wall motion, and 
ejection fraction. 

___ Stress:
Poor exercise tolerance. No anginal symptoms with nonspecific ST 
segment changes. Resting systolic hypertension with appropriate 
blood pressure response to exercise. Blunted heart rate response 
in the presence of beta blocker therapy.

===MICRO===

None
 
Brief Hospital Course:
This is a ___ year old male with history of CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___, LAD ___, HFpEF, CKD, peripheral vascular 
disease, hypertension, and HIV presenting with chest pain 
responsive to nitro drip admitted for unstable angina. 
 
# Chest pain: Patient with known CAD s/p Promus DES to mid-LAD, 
D1 branch, and distal-RCA on ___, s/p Premier DES to ___ on 
___. LAD ___. Patient with multiple cardiac risk factors 
including known CAD, hypertension, HIV, and CKD. ECG without 
significant changes from prior. Trop X 1 negative though second 
troponin of 0.02 in indeterminate range though uptrending. 
Patient evaluated by cardiology with recommendation to admit for 
unstable angina. Negative repeat troponins on AM of ___. EKG 
unchanged. Normal stress test. Discontinued heparin gtt due to 
neg troponin on ___. Exercise stress test showed poor exercise 
tolerance but no ischemia, angina, or filling defects. ___ be 
related to GERD vs angina, although angina has not been 
reproducible. Should continue Carvedilol, ASA 81 mg daily, 
Plavix 75 mg daily, pravastatin (atorvastatin allergy), imdur 
and diltiazem.  

# ___ on CKD (Cr 1.4): ___ on presentation, which returned to 
baseline 1.4 on ___. Urine lytes show pre-renal etiology. 
Improved with 1 uPRBC on ___. Bumped to 2.0 when resumed on 
home dose lisinopril ___, peaked at 2.1 on ___, subsequently 
downtrending, 1.9-2.0 ___. Spun urine with no casts, bland 
sediment, 2+ protein, pH 6.5, SG 1.015. FeNa <1%. Will continue 
to hold lisinopril, if restarting as outpatient should be done 
with caution and at low dose (2.5). 

# Elevated PTT: Pt with PTT 150 on SQH. Fibrinogen normal. Heme 
consulted, likely related poor heparin clearance in the setting 
of liver/kidney disease. Thrombin time elevated initially, 
subsequently normalized. Lupus anticoagulant positive, 
Anticardiolipin and Anti-B2 glycoprotein 1 antibodies negative. 
PTT downtrended to near normal with cessation of SQH. Will be 
followed up by hematology as an outpatient. 

# HTN: Hypertensive intermittently to the 200s systolic. Goal 
SBP < 130. Improving with resumption of home meds (besides 
lisinopril) plus amlodipine. Should continue to be titrated as 
outpatient.  

# Thrombocytopenia: appears chronic likely in setting of likely 
HCV liver disease. Initially downtrending with trough of 85, 
subsequently stabilized and uptrending.

# Dizziness/Blurred Vision: occurs weekly per patient, occurred 
on ___, resolve within a few hours. Repeat EKG wnl. 

# Anemia: Normocytic (hx of slighly elevated MCV in past). 
Baseline ___ in past 6 months. Previous iron studies 
unrevealing. Suggested for repeat colonoscopy (last ___ showed 
grade 2 internal hemorrhoids). s/p 1 uPRBC on ___. At baseline 
at present. No iron deficiency based on iron studies. 
 
# Grade I LV diastolic dysfunction (HFpEF) with ___ aortic 
regurgitation (TTE ___. BNP not elevated. Patient appears 
euvolemic on exam.  

# Perpheral vascular disease: continued aspirin and plavix

# HIV-Undetectable viral load in ___ per ___ records. 
Absolute CD4 count of 538 in ___. Continued Abacavir Sulfate 
300 mg PO BID, Efavirenz 600 mg PO QHS, LaMIVudine 150 mg PO 
DAILY  

# HCV cirrhosis complicated by portal HTN: Patient is s/p 
harvoni treatment with undetectable viral load. Followed by 
hepatology at ___.  

# GERD: continued PPI  

# COPD: No signs of COPD exacerbation on exam. Continued 
Albuterol Inhaler 2 PUFF IH Q6H:PRN DYSPNEA, 
Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H.  

Transitional Issues: 
====================
- Please follow-up with your PCP and your cardiologist
- Please recheck creatinine at next PCP ___. Discharge 
creatinine 2.0
- Please consider starting low-dose lisinopril
- Please continue to titrate antihypertensive medications
- Patient will continue to follow with cardiology and hematology 
as an outpatient.
- Patient will require repeat colonoscopy this year 
- CODE: Full code confirmed 
- CONTACT: Niece ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 
3. Aspirin 81 mg PO DAILY 
4. Carvedilol 25 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Efavirenz 600 mg PO QHS 
7. HydrALAzine 75 mg PO Q6H 
8. LaMIVudine 150 mg PO DAILY 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
10. Clopidogrel 75 mg PO DAILY 
11. Desonide 0.05% Cream 1 Appl TP DAILY PRN rash 
12. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
13. Lisinopril 10 mg PO DAILY 
14. Pravastatin 20 mg PO QPM 
15. Diltiazem Extended-Release 120 mg PO DAILY 
16. Omeprazole 40 mg PO DAILY 
17. Oxybutynin 5 mg PO DAILY 

 
Discharge Medications:
1. Abacavir Sulfate 300 mg PO BID 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 
3. Aspirin 81 mg PO DAILY 
4. Carvedilol 25 mg PO BID 
5. Clopidogrel 75 mg PO DAILY 
6. Desonide 0.05% Cream 1 Appl TP DAILY PRN rash 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Efavirenz 600 mg PO QHS 
10. HydrALAzine 75 mg PO Q6H 
11. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
12. LaMIVudine 150 mg PO DAILY 
13. Omeprazole 40 mg PO DAILY 
14. Oxybutynin 5 mg PO DAILY 
15. Pravastatin 20 mg PO QPM 
16. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily in the evening 
Disp #*30 Tablet Refills:*0
17. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
18. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*60 Tablet Refills:*0
19. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Unstable Angina
Acute Kidney Injury
Elevated PTT

Secondary: 
COPD
Chronic Diastolic Heart Failure
Anemia
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

Thank you for allowing us to take part in your care during your 
stay in the hospital. You came into the hospital with chest 
pain.  Your chest pain was treated with nitroglycerin and a 
blood thinner, but your blood tests did not show any damage to 
your heart. You had an exercise stress test to check the 
arteries in your heart which showed no concerning evidence of 
ongoing heart injury. You also had an acute kidney injury that 
arose likely because of starting a medication called lisinopril 
for your blood pressure. Your kidney injury has since improved. 

You should continue the medications as listed in the enclosed 
discharge paperwork. 

Please follow-up with your PCP and your cardiologist. Please 
weight yourself every day and call your MD if your weight goes 
up by 3 lbs. 

It was a pleasure taking care of you, 

- Your ___ Team 
 
Followup Instructions:
___